US06506738B1
A mixture of 3-fluorobenzenediamine (6.3 g, 50.0 mmol) and ethyl acetoacetate (6.50 g, 50.0 mmol) and DBU (0.76 g, 5.0 mmol) in p-xylene (50 mL) was heated to reflux for 2 h. Water formed during reaction was removed with a Dean-Stark trap. After cooling, the solvent was removed in vacuo. The residue was purified by flash chromatography (gradient, hexanes:EtOAc 4:1 to 1:1) to give 0.76 mg (8%) of 5-fluoro-1-isopropenyl-1,3-dihydro-benzoimidazol-2-one, 261 and 1.10 (11%) of 6-fluoro-1-isopropenyl-1,3-dihydro-benzoimidazol-2-one 262 as white solids.

reactant | 3-fluorobenzenediamine | 50.0 mmol, 6.3 g | FC1=C(C(=CC=C1)N)N | C6H7FN2
reactant | ethyl acetoacetate | 50.0 mmol, 6.50 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | DBU | 5.0 mmol, 0.76 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | Water | O | H2O
reactant | p-xylene | 50 mL | CC=1C=CC(=CC1)C | C8H10
product | 5-fluoro-1-isopropenyl-1,3-dihydro-benzoimidazol-2-one | 0.76 mg, 8% | FC1=CC2=C(N(C(N2)=O)C(=C)C)C=C1 | C10H9FN2O
